### PR TITLE
[Merged by Bors] - feat: prove an upper bound on bitwise operations

### PR DESCRIPTION
**Pull request by alexkeizer**
A simple result which shows that if `x` and `y` fit within `n` bits, then the result of any bitwise operation on `x` and `y` also
fits within `n` bits.

Co-authored-by: mhk119 [58151072+mhk119@users.noreply.github.com](mailto:58151072+mhk119@users.noreply.github.com)
Co-authored-by: Eric Wieser [wieser.eric@gmail.com](mailto:wieser.eric@gmail.com)

---

Factored out from #5920 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Bitwise.lean [hunk 1]
```diff
@@ -486,4 +486,33 @@ theorem lt_xor_cases {a b c : ℕ} (h : a < b ^^^ c) : a ^^^ c < b ∨ a ^^^ b <
...
+      simp only [bitwise_zero_right]
+      split <;> assumption
+    | f «by» ny hny =>
+      rw [bitwise_bit' _ _ _ _ hnx hny]
+      cases n <;> simp_all
+
+lemma shiftLeft_lt {x n m : ℕ} (h : x < 2 ^ n) : x <<< m < 2 ^ (n + m) := by
+  simp only [pow_add, shiftLeft_eq, mul_lt_mul_right (two_pow_pos _), h]
+
+lemma append_lt {x y n m} (hx : x < 2 ^ n) (hy : y < 2 ^ m) : y <<< n ||| x < 2 ^ (n + m) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:513]:
```suggestion
/-- Note that the LHS is the expression used within `Std.BitVec.append`, hence the name. -/
lemma append_lt {x y n m} (hx : x < 2 ^ n) (hy : y < 2 ^ m) : y <<< n ||| x < 2 ^ (n + m) := by
```

**Review by eric-wieser — APPROVED** [review]
maintainer merge
(since I wrote one of these proofs)

**Comment by kmill** [comment]
Thanks!

bors r+
